US08487094B2
To a solution of 3-(2′,4′-difluorobiphenyl-3-yl)-6-(2-hydroxyethyl)-6-phenyl-1,3-oxazinan-2-one (200 mg, 0.49 mmol) in dry CH2Cl2 (4 mL) was added Et3N (0.234 mL, 1.46 mmol) at 0˜−5° C. A solution of methanesulfonyl chloride (67 mg, 0.59 mmol) in dry CH2Cl2 (1 mL) was added dropwise at the same temperature. After addition, the mixture was allowed to warm to rt gradually. When the reaction was complete, water (10 mL) was added and the mixture was extracted with CH2Cl2 (3×10 mL). The combined organic layers were washed with 10% aq citric acid, satd aq NaHCO3 and brine, then dried over Na2SO4, filtered and concentrated to give 2-(3-(2′,4′-difluorobiphenyl-3-yl)-2-oxo-6-phenyl-1,3-oxazinan-6-yl)ethyl methanesulfonate (230 mg, 97%), which was used in the next step without purification.

reactant | 3-(2′,4′-difluorobiphenyl-3-yl)-6-(2-hydroxyethyl)-6-phenyl-1,3-oxazinan-2-one | 0.49 mmol, 200 mg | FC1=C(C=CC(=C1)F)C1=CC(=CC=C1)N1C(OC(CC1)(C1=CC=CC=C1)CCO)=O | C24H21F2NO3
reactant | Et3N | 1.46 mmol, 0.234 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.59 mmol, 67 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 10 mL | O | H2O
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-(2′,4′-difluorobiphenyl-3-yl)-2-oxo-6-phenyl-1,3-oxazinan-6-yl)ethyl methanesulfonate | 230 mg, 97% | CS(=O)(=O)OCCC1(CCN(C(O1)=O)C=1C=C(C=CC1)C1=C(C=C(C=C1)F)F)C1=CC=CC=C1 | C25H23F2NO5S
